US05023253
1,1a,2,8,8a,8b-Hexahydro-8-(hydroxymethyl)-8a-methoxy-5-methyl -6-[2-(methylthio)ethoxy]-azirino[2',3':3,4]pyrrolo [1,2-a]indole-4,7-dione carbamate
A solution of mitomycin A (100 mg) in 2 ml of 2-(methylthio)ethanol was stirred at room temperature under nitrogen for 45 minutes with 500 mg of a 1.6% solution of KOH in 2-(methylthio)ethanol. The reaction mixture was diluted with ether and decomposed with dry ice. Components in the etherial solution were separated on a silica gel column using ether as a solvent, which elutes the 2-(methylthio)ethanol, followed by a mixture of chloroform and methanol 9:1 or 8:2, which elutes the product. The product was further purified by preparative thin layer chromatography on silica gel with a mixture of chloroform and methanol 9:1. This procedure gave 85 mg (72%) of the title compound, having a melting point of 72°-86° C. (decomposition) and providing the following analysis:

reactant | mitomycin A | 100 mg | CC1=C(C(=O)C2=C(C1=O)N3C[C@H]4[C@@H]([C@@]3([C@@H]2COC(=O)N)OC)N4)OC | C16H19N3O6
reactant | KOH | [OH-].[K+]
reactant | dry ice | C(=O)=O | CO2
reactant | 2-(methylthio)ethanol | 2 ml | CSCCO | C3H8OS
solvent | ether | CCOCC | C4H10O
product | 1,1a,2,8,8a,8b-Hexahydro-8-(hydroxymethyl)-8a-methoxy-5-methyl -6-[2-(methylthio)ethoxy]-azirino[2',3':3,4]pyrrolo [1,2-a]indole-4,7-dione carbamate | 85 mg, 72% | C(N)(O)=O.OCC1C2(N(C=3C(C(=C(C(C13)=O)OCCSC)C)=O)CC1C2N1)OC | InChI=1S/C17H22N2O5S.CH3NO2/c1-8-13(21)12-11(14(22)15(8)24-4-5-25-3)9(7-20)17(23-2)16-10(18-16)6-19(12)17;2-1(3)4/h9-10,16,18,20H,4-7H2,1-3H3;2H2,(H,3,4)
